US04959381
4-Amino-3-chloro-α-[[[5-(2-phenylethoxy)pentyl]amino]methyl]-5-(trifluoromethyl)benzenemethanol
A solution of 4-amino-3-chloro-α-[[[5-(2-phenylethoxy) pentyl](phenylmethyl)amino]methyl]-5-(trifluoromethyl)benzenemethanol (0.42 g) and conc. hydrochloric acid/ethanol (1:9 v/v, 0.71 ml) was hydrogenated over pre-reduced 10% palladium oxide on charcoal (80 mg, 50% aqueous paste) in absolute ethanol (5 ml). The mixture was filtered through hyflo and evaporated in vacuo to give an oil which was purified by FCC eluting with toluene-ethanol-triethylamine (95:5:1) to give the title compound as a white solid (0.22 g) m.p. 70°-71.5°.

reactant | 4-amino-3-chloro-α-[[[5-(2-phenylethoxy) pentyl](phenylmethyl)amino]methyl]-5-(trifluoromethyl)benzenemethanol | 0.42 g | NC1=C(C=C(C=C1C(F)(F)F)C(O)CN(CC1=CC=CC=C1)CCCCCOCCC1=CC=CC=C1)Cl | C29H34ClF3N2O2
reactant | hydrochloric acid ethanol | 0.71 ml | Cl.C(C)O
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | 4-Amino-3-chloro-α-[[[5-(2-phenylethoxy)pentyl]amino]methyl]-5-(trifluoromethyl)benzenemethanol | 0.22 g | NC1=C(C=C(C=C1C(F)(F)F)C(O)CNCCCCCOCCC1=CC=CC=C1)Cl | C22H28ClF3N2O2
